US06642232B2
Synthesis of (3Z)-3-{[3,5-dimethyl-4-(morpholin-4-yl)piperidin-1-ylcarbonyl]-1H-pyrrol-2-ylmethylidene}-5-fluoro-1,3-dihydro-2H-indol-2-one
(3Z)-3-(3,5-Dimethyl-4-carboxy-1H-pyrrol-2-ylmethylidene)-5-fluoro-1,3-dihydro-2H-indol-2-one (120 mg, 0.40 mmol), prepared as described in published PCT Application WO01/60814, and BOP (221 mg, 0.50 mmol) were suspended in DMF (5 mL) with good stirring at room temperature and triethylamine (134 μL, 0.96 mmol) was added. After 10-15 min., to the homogeneous reaction mixture was added the 4-(morpholin-4-yl)piperidine (85 mg, 0.50 mmol) all at once. The reaction mixture was stirred for 48 h (might be done much earlier), then transferred to a funnel containing chloroform-isopropanol (5/1) and 5% aq. LiCl. The cloudy-orange organic phase was separated, washed with additional 5% aq LiCl (2×), 1 M aq NaOH (3×), satd aq NaCl (1×), and then dried (Na2SO4) and evaporated to yield the crude product (96.3% pure; trace hexamethylphosphoramide (HMPA) by 1HNMR). This crude product was then further purified by passage through a very short column (3 cm) of silica gel (5 to 15% gradient of MeOH in dichloromethane (DCM)) where a trace of faster moving 3E-isomer was removed. The pure fractions were evaporated and recrystallized overnight from a satd EtOAc soln which was diluted with Et2O (˜3-fold) and chilled at 0° C. The mother liquor was decanted to yield after full vacuum the desired compound as orange crystals (153 mg 85%).

reactant | (3Z)-3-(3,5-Dimethyl-4-carboxy-1H-pyrrol-2-ylmethylidene)-5-fluoro-1,3-dihydro-2H-indol-2-one | 0.40 mmol, 120 mg | CC1=C(NC(=C1C(=O)O)C)\C=C\1/C(NC2=CC=C(C=C12)F)=O | C16H13FN2O3
reactant | BOP | 0.50 mmol, 221 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.96 mmol, 134 μL | C(C)N(CC)CC | C6H15N
reactant | 4-(morpholin-4-yl)piperidine | 0.50 mmol, 85 mg | N1(CCOCC1)C1CCNCC1 | C9H18N2O
reactant | LiCl | [Li+].[Cl-]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
product | (3Z)-3-{[3,5-dimethyl-4-(morpholin-4-yl)piperidin-1-ylcarbonyl]-1H-pyrrol-2-ylmethylidene}-5-fluoro-1,3-dihydro-2H-indol-2-one | 153 mg, 85% | CC1CN(CC(C1N1CCOCC1)C)C(=O)\C(=C\1/C(NC2=CC=C(C=C12)F)=O)\C=1NC=CC1 | C25H29FN4O3
